US09233979B2
To a mixture of 2,5-dimethyldihydrofuran-3(2H)-one oxime (23 g, 0.175 mol) and Raney Ni (4 g) in THF/NH3.H2O (1:1, 200 mL) was stirred at 60° C. under 4 MPa for overnight. The mixture was cooled and filtered, the filtrate was concentrated to give 2,5-dimethyltetrahydrofuran-3-amine To a mixture of 2,5-dimethyltetrahydrofuran-3-amine and Et3N (53.2 g, 0.526 mol) in DCM (300 mL), (Boc)2O (42 g, 0.193 mol) was dissolved in DCM (100 mL) and dropwise added in the mixture at 0° C. After addition, the reaction mixture was stirred at rt. for 4 hours before water was added in the reaction. The aqueous phase was extracted with DCM, the organic layer was washed with H2O, dried over Na2SO4, concentrated. The residue was purified by column to give tert-butyl(2,5-dimethyltetrahydrofuran-3-yl)carbamate hydrochloride. To a solution of tert-butyl(2,5-dimethyltetrahydrofuran-3-yl)carbamate hydrochloride in ether, ether.HCl was added dropwise at 0° C. After addition, the mixture was filtered to give 2,5-dimethyltetrahydrofuran-3-amine hydrochloride. 1H NMR (ppm, 300 MHz, D2O) δ 3.5-4.4 (m, 3H), 1.5-2.7 (m, 2H), 1.2-1.3 (m, 6H).

reactant | tert-butyl(2,5-dimethyltetrahydrofuran-3-yl)carbamate hydrochloride | Cl.C(C)(C)(C)N(C(O)=O)C1C(OC(C1)C)C
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2,5-dimethyltetrahydrofuran-3-amine hydrochloride | Cl.CC1OC(CC1N)C | InChI=1S/C6H13NO.ClH/c1-4-3-6(7)5(2)8-4;/h4-6H,3,7H2,1-2H3;1H
